US07618978B2
2-(R)-[2-(R)-(Benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-piperazine-1-carboxylic acid tert-butyl ester
Dissolve 2-(R)-(2-(R)-amino-1-(S)-hydroxy-3-phenylpropyl)-piperazine-1-carboxylic acid tert-butyl ester (98 mg, 0.29 mmol) in dry dichloromethane and add benzophenoneimine (0.083 ml, 0.49 mmol) by syringe, stir overnight, and purify (silica gel chromatography, eluting with ethyl acetate and 98:2 ethyl acetate:triethylamine) to obtain (144 mg, 95% yield) of the title compound (144 mg, 95%) as a colorless oil.

reactant | 2-(R)-(2-(R)-amino-1-(S)-hydroxy-3-phenylpropyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.29 mmol, 98 mg | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)[C@H]([C@@H](CC1=CC=CC=C1)N)O | C18H29N3O3
reactant | benzophenoneimine | 0.49 mmol, 0.083 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(R)-[2-(R)-(Benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-piperazine-1-carboxylic acid tert-butyl ester | 144 mg, 95% yield | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)[C@H]([C@@H](CC1=CC=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)O | C31H37N3O3
